US05405851
To a suspension of 3,9-dimethylbenzo[f]quinazolin-1(2H)-one (1.0 g, 4.5 mmol) in DMF (25 ml) was added 80% NaH (0.15 g, 5.0 mmol) (Aldrich) portion wise and the mixture was stirred 35 minutes. Bromomethyl methyl ether (0.39 ml, 4.8 mmol) (Aldrich) was added in one portion and the solution was stirred at room temperature overnight. The solution was then diluted with water (100 ml) and extracted twice with methylene chloride (100, 40 ml). The combined methylene chloride extracts were washed with a small volume of water, dried (K2CO3), and concentrated in vacuo. The residue was purified by silica gel (4 0 g) chromatography eluting with ethyl acetate:methylene chloride (0 to 1:19) to give 3,9-dimethyl-2-methoxymethylbenzo[f]quinazolin-1(2H)-one and the corresponding O-alkylated material in a 4:1 ratio as determined by NMR (0.79 g). 1H NMR (DMSO-d6, 300 MHz) for major isomer δ: 2.57 (s, 3H, C9 --CH3), 2.68 (s, 3H, C3 --CH3), 3.38 (s, 3H, OCH3), 5.62 (s, 2H, NCH2O), 7.51 (dd, J=8,2 Hz, 1H, Ar), 7.56 (d, J=9 Hz, 1H, Ar), 7.96 (d, J=8 Hz, 1H, Ar), 8.24 (d, J=9 Hz, 1H, Ar), 9.63 (s, 1H, Ar). Anal. Calculated for C16H16N2O2 : C, 71.62; H, 6.01; H, 10.44. Found: C, 71.55; H, 6.03; H, 10.43.

reactant | 3,9-dimethylbenzo[f]quinazolin-1(2H)-one | 4.5 mmol, 1.0 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)C | C14H12N2O
reactant | NaH | 5.0 mmol, 0.15 g | [H-].[Na+]
reactant | Bromomethyl methyl ether | 4.8 mmol, 0.39 ml | COCBr | C2H5BrO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3,9-dimethyl-2-methoxymethylbenzo[f]quinazolin-1(2H)-one | CC1=NC=2C=CC3=C(C2C(N1COC)=O)C=C(C=C3)C | C16H16N2O2
